US05382590
The procedure is analogous to that described in Example 1, but 0.25 g of 2-(2-amino-N-phenylacetamido)-N-benzylacetamide and 0.11 g of 3-methylphenyl isocyanate are used as the starting material. After recrystallization from acetonitrile, 0.17 g of N-benzyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido]acetamide melting at 204° C. is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-benzylacetamide | 0.25 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)NCC1=CC=CC=C1 | C17H19N3O2
reactant | 3-methylphenyl isocyanate | 0.11 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-benzyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido]acetamide | 0.17 g | C(C1=CC=CC=C1)NC(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O | C25H26N4O3
